US06448262B1
Preparation of 2-[(Difluoromethyl)thio]thiazolo[4,5-b]pyridine
A solution of thiazolo[4,5-b]pyridine-2-thiol (2.0 g, 12 mmol) in dioxane is treated with a solution of sodium hydroxide (4.8 g, 120 mmol) in water, heated to 70° C., treated with a steady stream of chlorodifluoromethane for 75 minutes, and poured onto ice. The resultant aqueous mixture is acidified with concentrated hydrochloric acid and extracted with dichloromethane. The organic extract is dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and several ethyl acetate/hexanes solutions gives the title product as a light yellow solid (0.86 g, 33% yield, mp 41-43° C.).

reactant | thiazolo[4,5-b]pyridine-2-thiol | 12 mmol, 2.0 g | S1C(=NC2=NC=CC=C21)S | C6H4N2S2
reactant | sodium hydroxide | 120 mmol, 4.8 g | [OH-].[Na+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-[(Difluoromethyl)thio]thiazolo[4,5-b]pyridine | 0.86 g, 33% yield | FC(SC=1SC=2C(=NC=CC2)N1)F | C7H4F2N2S2
